US07638657B2
The first stage of this process (stage a) above or 101 in the FIGURE of Drawing is a one pot reaction for the conversion of 1-(4-hydroxy-3-propylphenyl)propan-1-one (prepared according to Demerseman et al., Bull. Soc. Chim. Fr., 1963, 2559-2562, or Stoughton, Baltzly and Bass, J. Am. Chem. Soc., 56, 1934, 2007) by reaction with trifluoromethanesulfonic anhydride (Tf2O) in the presence of triethylamine (NEt3) to provide its derivative trifluoromethanesulfonic acid 4-propionyl-2-(n-propyl)phenyl ester, followed by an in situ condensation of Suzuki type with 2-ethyl-5-methoxyphenylboronic acid (prepared according to a process described in FR-2,863,613) in the presence of K2CO3 and of a catalytic amount of PdCl2(PPh3)2 or Pd(PPh3)4.

reactant | 1-(4-hydroxy-3-propylphenyl)propan-1-one | OC1=C(C=C(C=C1)C(CC)=O)CCC | C12H16O2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trifluoromethanesulfonic acid 4-propionyl-2-(n-propyl)phenyl ester | C(CC)(=O)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)CCC | C13H15F3O4S
